US04867915
4.81 ml (1.92 g, 14.4 mmol) of a 3N solution of ethylmagnesium bromide in ether was added dropwise under argon to a solution of 2 g (15.15 mmol) of 3-phenoxy-1-propyne (G. Pourcelot, et al., Bull. Soc. Chim., France, (1966), pp 3016-24, in 15 ml of anhydrous tetrahydrofuran. The rate of addition was adjusted to maintain the temperature at 0° C. Thereafter, the reaction mixture was stirred for 1 hour further at 0°-5° C. Then, 77 mg of cuprous cyanide was added. After stirring 20 minutes more, a solution of 1.13 g (7.22 mmol) of 1-bromo-2,5-hexadiyne in 10 ml of anhydrous tetrahydrofuran was added dropwise. The temperature was maintained at between 0°-5° C.The resulting mixture was stirred at room temperature for 3 additional hours, then poured into 60 ml of 1N sulfuric acid and ice, and the resulting solution extracted with ether (3×100 ml). The combined organic extracts were concentrated in vacuo to a small volume, and washed several times with EDTA and water, dried over sodium sulfate and evaporated. The crude material was purified by TLC using hexane:methylene chloride (80:20) as the eluant, and the product crystallized from methylene chloride-hexane, to yield 9-phenoxy-1,4,7-nonatriyne, as an oil.The product was stored in dry ice.

reactant | ethylmagnesium bromide | C(C)[Mg]Br
reactant | 3-phenoxy-1-propyne | 15.15 mmol, 2 g | O(C1=CC=CC=C1)CC#C | C9H8O
reactant | 1-bromo-2,5-hexadiyne | 7.22 mmol, 1.13 g | BrCC#CCC#C | C6H5Br
reactant | sulfuric acid | 1N, 60 ml | S(O)(O)(=O)=O | H2O4S
solvent | ether | CCOCC | C4H10O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 9-phenoxy-1,4,7-nonatriyne | O(C1=CC=CC=C1)CC#CCC#CCC#C | C15H12O
